US04515729
2-(1-ethoxyaminobutylidene)-5-(2-ethylsulfinylpropyl)-4-methylcyclohexane-1,3-dione (Compound No. 2)
Into 20 ml of ethanol, 3.1 g of 2-butyryl-5-(2-ethylsulfinylpropyl)-4-methylcyclohexane-1,3-dione was dissolved and 0.61 g of ethoxyamine was dropped thereto at 0° C. and the resulting solution was stirred at room temperature for 3 hours. After completion of the reaction, the reaction solution was treated as in Example 1 to obtain 2.65 g of the desired compound as yellow oily material. Yield 74%, nD19 1.5348.

reactant | 2-butyryl-5-(2-ethylsulfinylpropyl)-4-methylcyclohexane-1,3-dione | 3.1 g | C(CCC)(=O)C1C(CC(C(C1=O)C)CC(C)S(=O)CC)=O | C16H26O4S
reactant | ethoxyamine | 0.61 g | C(C)ON | C2H7NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(1-ethoxyaminobutylidene)-5-(2-ethylsulfinylpropyl)-4-methylcyclohexane-1,3-dione | 2.65 g, Yield 74% | C(C)ONC(CCC)=C1C(CC(C(C1=O)C)CC(C)S(=O)CC)=O | C18H31NO4S
